US07285557B2
3-Methoxy-4-(2-methyl-2-pyrrolidin-1-ylpropoxy)aniline
1-[2-(2-Methoxy-4-nitrophenoxy)-1,1-dimethylethyl]pyrrolidine (0.075 g, 0.2551 mmol) was dissolved in EtOAc (10 mL). 10% Pd/C (0.007 g) was added and the reaction hydrogenated under 1 atm of H2. The reaction was stirred for 18 h, filtered through celite and the celite washed with EtOAc (3×30 mL). The combined organics were concentrated to afford 0.063 g (0.2386 mmol, 93%) of the product. 1H NMR (CDCl3) δ 6.80 (d, 1H, J=8.4 Hz), 6.22 (s, 1H), 6.18 (d, 1H, J=8.3 Hz), 3.78 (s, 3H), 3.50 (bs, 2H), 2.68 (bs, 6H), 1.78 (bs, 4H), 1.22 (s, 6H).

reactant | 1-[2-(2-Methoxy-4-nitrophenoxy)-1,1-dimethylethyl]pyrrolidine | 0.2551 mmol, 0.075 g | COC1=C(OCC(C)(C)N2CCCC2)C=CC(=C1)[N+](=O)[O-] | C15H22N2O4
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.007 g | [Pd] | Pd
product | 3-Methoxy-4-(2-methyl-2-pyrrolidin-1-ylpropoxy)aniline | 0.2386 mmol, 0.063 g, 93% | COC=1C=C(N)C=CC1OCC(C)(N1CCCC1)C | C15H24N2O2
